### PR TITLE
[Merged by Bors] - refactor(CategoryTheory/ObjectProperty): IsClosedUnderLimitsOfShape

### PR DESCRIPTION
**Pull request by joelriou**
This PR renames `ClosedUnderLimitsOfShape` as `ObjectProperty.IsClosedUnderLimitsOfShape`, and make it a typeclass.

The stability condition of a property `P` by (co)limits of shape `J` is now expressed as `P.colimitsOfShape J ≤ P`. This facilitates the connection with the relatively new API `ColimitPresentation` #29382 (and the related `ObjectProperty.ColimitOfShape`).

By using a typeclass for the stability condition, it will be possible to add instances `HasLimitsOfShape` instances for fullsubcategories.

This also makes the design more parallel to what we have for the stability under (co)limits of `MorphismProperty`.

---

- [x] depends on: #29903
- [x] depends on: #29851
- [x] depends on: #29843
- [x] depends on: #29849

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Indization/Category.lean [hunk 1]
```diff
@@ -113,23 +113,30 @@ noncomputable def Ind.yonedaCompInclusion : Ind.yoneda ⋙ Ind.inclusion C ≅ C
...
 instance : HasFilteredColimits (Ind C) where
   HasColimitsOfShape _ _ _ :=
     hasColimitsOfShape_of_hasColimitsOfShape_createsColimitsOfShape (Ind.inclusion C)
 
+noncomputable instance {J : Type v} [HasLimitsOfShape (Discrete J) C] :
+    ObjectProperty.IsClosedUnderLimitsOfShape (IsIndObject (C := C)) (Discrete J) :=
+  .mk' (by
+    rintro _ ⟨F, hF⟩
+    exact isIndObject_limit_of_discrete_of_hasLimitsOfShape _ hF)
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Indization/Category.lean:136]:
```suggestion
```

**Comment by jcommelin** [comment]
Could you please provide a bit more motivation? E.g. the diff is positive. It doesn't look like this makes many things shorter... (maybe in the future?)
And the large import?
```
Mathlib.CategoryTheory.Limits.FullSubcategory 	456 	641 	+185 (+40.57%)
```
seems quite substantial.

**Comment by joelriou** [comment]
I have added some arguments in the description above.

Apart from the setup of the basic API, the diff is mostly neutral (some lemmas are replaced by instances, which is overall a convenience for downstream applications). **Part of** the reason the imports of `Limits.FullSubcategory` are increased is that the code which was in this file was moved to the imported files `ObjectProperty.(Co)limitsOfShape`, and otherwise some basic API has been added.

**Comment by chrisflav** [comment]
!bench

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 2]
```diff
@@ -28,104 +29,121 @@ variable (D : J ⥤ P.Comma L R ⊤ ⊤)
...
-lemma Over.closedUnderLimitsOfShape_discrete_empty [P.ContainsIdentities] [P.RespectsIso] :
-    ClosedUnderLimitsOfShape (Discrete PEmpty.{1}) (P.overObj (X := X)) :=
+instance Over.closedUnderLimitsOfShape_discrete_empty [P.ContainsIdentities] [P.RespectsIso] :
+    (P.overObj (X := X)).IsClosedUnderLimitsOfShape (Discrete PEmpty.{1}) :=
   CostructuredArrow.closedUnderLimitsOfShape_discrete_empty P
 
+instance [P.RespectsIso] [P.ContainsIdentities] :
+    (MorphismProperty.commaObj (𝟭 T) (Functor.fromPUnit.{0} X) P).IsClosedUnderLimitsOfShape
+      (Discrete PEmpty.{1}) :=
+  Over.closedUnderLimitsOfShape_discrete_empty _
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: Why is this (and the one below) needed? Is it because sometimes the implementation of `Over` as `Comma` is leaking through?

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 3]
```diff
@@ -28,104 +29,121 @@ variable (D : J ⥤ P.Comma L R ⊤ ⊤)
...
-  have h : IsPullback (c.π.app .left).left (c.π.app .right).left (D.map WalkingCospan.Hom.inl).left
-        (D.map WalkingCospan.Hom.inr).left := IsPullback.of_isLimit_cone <|
-    Limits.isLimitOfPreserves (CategoryTheory.Over.forget X) hc
-  rw [P.overObj_iff, show c.pt.hom = (c.π.app .left).left ≫ (D.obj .left).hom by simp]
-  apply P.comp_mem _ _ (P.of_isPullback h.flip ?_) (hf _)
-  exact P.of_postcomp _ (D.obj WalkingCospan.one).hom (hf .one) (by simpa using hf .right)
+    (P.overObj (X := X)).IsClosedUnderLimitsOfShape WalkingCospan where
+  limitsOfShape_le := by
+    rintro Y ⟨p⟩
+    have ip := p.π.app .left
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: Maybe an "unbundled" constructor for `IsClosedUnderLimitsOfShape` would be useful? I.e. a constructor with the signature of the current [CategoryTheory.Limits.ClosedUnderLimitsOfShape](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/FullSubcategory.html#CategoryTheory.Limits.ClosedUnderLimitsOfShape). Then this proof could stay unchanged?

**Comment by chrisflav** [comment]
> E.g. the diff is positive. It doesn't look like this makes many things shorter... (maybe in the future?)

I think the diff being positive is simply because some additional documentation, some additional instances etc. are added. Also the fact that when writing an instance, the indentation is two spaces more than for a regular declaration, caused some carefully golfed proofs to go over the long line limit.

> And the large import?
> ```
> Mathlib.CategoryTheory.Limits.FullSubcategory 	456 	641 	+185 (+40.57%)
> ```
> 
> seems quite substantial.

I think this is to be expected. An ad-hoc definition was replaced by application of new machinery, so I think this increase can be safely ignored.

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: I have removed these instances by using `apply (config := { allowSynthFailures := true })` in a few places.

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean (hunk 3 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Limits/MorphismProperty.lean]: Thanks for the suggestion, but I would rather not add it because with the `rintro` syntax, the inputs are basically the same (up to renaming/repackaging of the variables).

**Comment by riccardobrasca** [comment]
@chrisflav can you please have another look?

File: Mathlib/CategoryTheory/Limits/MorphismProperty.lean [hunk 4]
```diff
@@ -160,24 +163,24 @@ instance [P.ContainsIdentities] : HasTerminal (P.Over ⊤ X) :=
   let h : IsTerminal (Over.mk ⊤ (𝟙 X) (P.id_mem X)) := Over.mkIdTerminal P X
   h.hasTerminal
 
+
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/MorphismProperty.lean]:
```suggestion
```

**Review by chrisflav — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by leanprover-radar** [comment]
Benchmarking be9f65b459a2c47f5de00e27c77d2bae5a78cbf9 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/be9f65b459a2c47f5de00e27c77d2bae5a78cbf9)) against dc82ad56b53f151742f4c680e51247f95847a878 ([status](https://radar.lean-lang.org/repos/mathlib4/commits/dc82ad56b53f151742f4c680e51247f95847a878)).

<sub>React with :eyes: to be notified when the results are in. The command author is always notified.</sub>
